Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],1.3522768516
[H:1][C:2]([H:3])([H:4])[O:5][C:6]1[O:7][C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],0.611989799649
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]1[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-0.285804760979
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:6]>>[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.85749805112
[H:1][C:2]=[C:3]1[O:4][C:5][C@@:6]1([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-0.8007760187899999
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])[H:6].[H:1][O:2][C:3]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],7.13069810253
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[H:1][C:2]=[C:3](/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.38623885978
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])[H:8]>>[C:1]#[C:2].[C:3]([H:4])[O:5][C:6]([H:7])[H:8],7.072366135599999
[C:5]([H:6])[O:7][H:8].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8],-4.20043636009
[C:1]=[C:2]([H:3])[H:4]>>[C:1]#[C:2][H:3].[H:4],4.0430051249900005
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][O:3],2.99986630809
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:4],1.87271047216
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9]/[C:11]([H:12])([H:13])[H:14],4.8856147952
[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],-6.02318855761
[C:4]([H:5])([H:6])=[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.10168939205
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3](=[C:4]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:5],3.1384740904900004
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][H:8],3.81167980771
[C:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:1]#[C:2][C:3]([H:4])=[C:5]([H:6])[H:7].[C:8]([H:9])([H:10])[O:11][H:12],3.09088867574
[C:10]([H:11])([H:12])[H:13].[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][O:9]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][O:9][C:10]([H:11])([H:12])[H:13],-3.1258225270599995
[C:10]([H:11])([H:12])[H:13].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-1.80692767607
[H:1][O:2]/[C:3](=[C:4]/[C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2]/[C:3](=[C:4]/[C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])[H:12],4.62827100509
[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17]>>[C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])=[C:4]([H:5])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17],1.3691476187399998
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:13]([H:14])[H:15],4.65089155188
[H:1][C:2][O:4][C:5]([H:6])([H:7])[H:8].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[H:8],-3.94896731996
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])=[C:12]=[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@@:7]1([C:8]([H:9])([H:10])[H:11])[C:12][C:13]1([H:14])[H:15],2.89591611671
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8][H:9]>>[C:8][H:9].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]=[O:7],2.21356684042
[C:5]([H:6])[H:7].[H:1][C:2][O:3][C:4][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-8.143040856799999
[H:14].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-1.87991838833
